US07276516B2
2-Fluoro-nicotinonitrile
Add resin bound triphenylphosphine (4.0 g, 12.0 mmol) to a solution of 2-fluoro-nicotinamide (0.6 g, 4.3 mmol) in dichloroethane (20.0 mL) and carbon tetrachloride (20.0 mL). Reflux for 18 hours, cool to RT, filter, and concentrate the filtrate under vacuum. Purify by flash column on silica gel eluting with 10-60% EtOAc in hexanes to give the title compound (0.34 g, 64%). MS (ES) 123.1 (M+1)+. 1H NMR (400 MHz, CHCl3) δ 8.46 (m, 1H), 8.09 (m, 1H), 7.37 (m, 1H).

reactant | triphenylphosphine | 12.0 mmol, 4.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-fluoro-nicotinamide | 4.3 mmol, 0.6 g | FC1=C(C(=O)N)C=CC=N1 | C6H5FN2O
solvent | dichloroethane | 20.0 mL | ClC(C)Cl | C2H4Cl2
solvent | carbon tetrachloride | 20.0 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Fluoro-nicotinonitrile | 0.34 g, 64% | FC1=C(C#N)C=CC=N1 | C6H3FN2
